US06348461B1
Ethyl 7-(3-formylpyrrole-1-yl)-3-oxo-1,2,3,4-tetrahydro-6-trifluoromethylquinoxaline-2-carboxylate
To a solution of ethyl 7-amino-3-oxo-1,2,3,4-tetrahydro-6-trifluoromethylquinoxaline-2-carboxylate (3.60 g, 11.9 mmol) in acetic acid (60 ml) was added dropwise 2,5-dimethoxytetrahydrofuran-3-aldehyde (2.01 ml, 14.2 mmol) at 50° C., and the mixture was stirred for 1.5 hours at the same temperature. The reaction mixture was poured into water (300 ml), which was extracted with ethyl acetate. After dried over anhydrous sodium sulfate, solvent was distilled off. Methylene chloride was added to the residue obtained and the crystals were collected by filtration. These were washed with methylene chloride and then air-dried to obtain 2.57 g of the title compound as yellow powder. The filtrate and the washings were combined, concentrated under reduced pressure, and purified by means of silica gel column chromatography [ethyl acetate-hexane=2:1] to obtain further 973 mg. Total yield by weight 3.54 g. Yield 78%.

reactant | ethyl 7-amino-3-oxo-1,2,3,4-tetrahydro-6-trifluoromethylquinoxaline-2-carboxylate | 11.9 mmol, 3.60 g | NC1=C(C=C2NC(C(NC2=C1)C(=O)OCC)=O)C(F)(F)F | C12H12F3N3O3
reactant | 2,5-dimethoxytetrahydrofuran-3-aldehyde | 14.2 mmol, 2.01 ml | COC1OC(CC1C=O)OC | C7H12O4
reactant | water | 300 ml | O | H2O
solvent | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
product | Ethyl 7-(3-formylpyrrole-1-yl)-3-oxo-1,2,3,4-tetrahydro-6-trifluoromethylquinoxaline-2-carboxylate | 2.57 g, Yield 78% | C(=O)C1=CN(C=C1)C1=C(C=C2NC(C(NC2=C1)C(=O)OCC)=O)C(F)(F)F | C17H14F3N3O4
